US08609848B2
115. 4-(3,4-Dimethoxyphenyl)-2-{1-[(3-methylphenyl)sulfonyl]piperidin-4-yl}-2,3-diazaspiro[4.4]non-3-en-1-one
The title compound is prepared analogously as described for GP1 using 4-(3,4-dimethoxyphenyl)-2-(piperidin-4-yl)-2,3-diazaspiro[4.4]non-3-en-1-one hydrochloride (compound B10*HCl) and 3-methylbenzenesulfonyl chloride as starting compounds. The crude product is purified by crystallization from EA and diethyl ether to yield the title compound.

reactant | 4-(3,4-dimethoxyphenyl)-2-(piperidin-4-yl)-2,3-diazaspiro[4.4]non-3-en-1-one hydrochloride | Cl.COC=1C=C(C=CC1OC)C1=NN(C(C12CCCC2)=O)C2CCNCC2
reactant | 3-methylbenzenesulfonyl chloride | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
product | 4-(3,4-Dimethoxyphenyl)-2-{1-[(3-methylphenyl)sulfonyl]piperidin-4-yl}-2,3-diazaspiro[4.4]non-3-en-1-one | COC=1C=C(C=CC1OC)C1=NN(C(C12CCCC2)=O)C2CCN(CC2)S(=O)(=O)C2=CC(=CC=C2)C | C27H33N3O5S
